US09024015B2
Typically, 1-(4-amino-2-methylbenzoyl)-7-chloro-5-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine is reacted with 2-methylbenzoylchloride in water immiscible solvent selected from methylene chloride, toluene or cyclohexane in the presence of aqueous inorganic base such as aqueous sodium bicarbonate or aqueous sodium carbonate to form a biphasic system to obtain 7-chloro-1-[2-methyl-4-[(2-methylbenzoyl)amino]benzoyl]-5-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine.

reactant | 1-(4-amino-2-methylbenzoyl)-7-chloro-5-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine | NC1=CC(=C(C(=O)N2CCCC(C3=C2C=CC(=C3)Cl)=O)C=C1)C | C18H17ClN2O2
reactant | 2-methylbenzoylchloride | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-chloro-1-[2-methyl-4-[(2-methylbenzoyl)amino]benzoyl]-5-oxo-2,3,4,5-tetrahydro-1H-1-benzazepine | ClC=1C=CC2=C(C(CCCN2C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O)=O)C1 | C26H23ClN2O3
